US08012976B2
Ethyl 3-(4,5-dimethyl-4H-1,2,4-triazol-3-yl)-4-oxo-2-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate
A mixture of (E)-4-(benzylideneamino)isobenzofuran-1(3H)-one (237 mg, 1 mmol) and 4,5-dimethyl-4H-1,2,4-triazole-3-carbaldehyde (150 mg, 1.2 mmol) in ethyl propionate (10 mL) was cooled to 0° C. Then a solution of sodium ethoxide in ethanol [sodium (92 mg, 4 mmol) in ethanol (5 mL)] was added dropwise. After the addition, the mixture was stirred at 10° C. for 5 hr, then 30° C. 2.5 hr. The mixture was quenched with water (10 mL) and solvent was removed in vacuum. The residue was dissolved in water, and then extracted with ethyl acetate (30 mL×4). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, and concentrated to give crude product. The crude product was purified by chromatography (silica gel, petroleum ether/ethyl acetate=5:1 then ethyl acetate/methanol=15:1) to give the title compound (60 mg, yield: 15%). LC-MS (ESI) m/z: 391 (M+1)+.

reactant | (E)-4-(benzylideneamino)isobenzofuran-1(3H)-one | 1 mmol, 237 mg | C(/C1=CC=CC=C1)=N\C1=C2COC(C2=CC=C1)=O | C15H11NO2
reactant | 4,5-dimethyl-4H-1,2,4-triazole-3-carbaldehyde | 1.2 mmol, 150 mg | CN1C(=NN=C1C)C=O | C5H7N3O
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | ethanol | 4 mmol, 5 mL, 92 mg | C(C)O | C2H6O
solvent | ethyl propionate | 10 mL | C(CC)(=O)OCC | C5H10O2
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
product | Ethyl 3-(4,5-dimethyl-4H-1,2,4-triazol-3-yl)-4-oxo-2-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate | 60 mg, yield: 15% | CN1C(=NN=C1C)C1C(NC=2C=CC=C(C2C1=O)C(=O)OCC)C1=CC=CC=C1 | C22H22N4O3
